US08614327B2
To a mixture of 2-tert-butyl-5-nitrophenol (C-1-a) (100 mg, 0.52 mmol) and K2CO3 (86 mg, 0.62 mmol) in DMF (2 mL) was added CH3I (40 uL, 0.62 mmol). The reaction mixture was stirred at room temperature for 2 h, diluted with water and extracted with EtOAc. The combined organic layers were washed with brine and dried over MgSO4. After filtration, the filtrate was evaporated to dryness to give 1-tert-butyl-2-methoxy-4-nitrobenzene (82 mg, 76%) that was used without further purification. 1H NMR (400 MHz, CDCl3) δ 7.77 (t, J=4.3 Hz, 1H), 7.70 (d, J=2.3 Hz, 1H), 7.40 (d, J=8.6 Hz, 1H), 3.94 (s, 3H), 1.39 (s, 9H).

reactant | 2-tert-butyl-5-nitrophenol | 0.52 mmol, 100 mg | C(C)(C)(C)C1=C(C=C(C=C1)[N+](=O)[O-])O | C10H13NO3
reactant | K2CO3 | 0.62 mmol, 86 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | CH3I | 0.62 mmol, 40 uL | CI | CH3I
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 1-tert-butyl-2-methoxy-4-nitrobenzene | 82 mg, 76% | C(C)(C)(C)C1=C(C=C(C=C1)[N+](=O)[O-])OC | C11H15NO3
